US06329380B1
Step A: 1-Benzyloxycarbonyl-4-(aminomethyl)piperidine
To a solution of 4-(aminomethyl)piperidine (200 mg, 1.75 mmol) in toluene (2.3 mL) was added benzaldehyde (178 μL, 1.75 mmol) and the reaction mixture was refluxed for 3 h with azeotropic removal of water. The reaction mixture was cooled and dibenzyl dicarbonate (471 μL, 1.92 mmol) was added dropwise. After stirring overnight, toluene was removed under reduced pressure and the residue was stirred in 1NKHSO4 (2 mL) for 5 h. The residue was washed with Et2O (discarded) then made strongly basic (>pH 12) with SN NaOH. The aqueous layer was extracted with CH2Cl2 (4 times), and the combined extracts were washed with brine. After drying (Na2SO4) and removal of the solvent under reduced pressure, 340 mg of the title compound was obtained. Partial 1H NMR (500 MHz, CDCl3): δ 7.38-7.27 (m, 5H); 5.1 (s, 2H); 4.19 (br s, 2H); 2.76 (br s, 2H); 2.57 (d, J=6.5 Hz 2H); 1.69 (brm, 2H); 1.44 (m, 1H); 1.09 (brm, 2H).

reactant | 4-(aminomethyl)piperidine | 1.75 mmol, 200 mg | NCC1CCNCC1 | C6H14N2
reactant | benzaldehyde | 1.75 mmol, 178 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | water | O | H2O
reactant | dibenzyl dicarbonate | 1.92 mmol, 471 μL | C(=O)(OCC1=CC=CC=C1)OC(=O)OCC1=CC=CC=C1 | C16H14O5
solvent | toluene | 2.3 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Benzyloxycarbonyl-4-(aminomethyl)piperidine | 340 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CN | C14H20N2O2
